Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My psychiatrist wanted me to see if meds would
help because she was worried I would hurt myself."

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ student at ___
with past suicide attempt at age ___ by cutting wrists who was
brought to the ___ by her school counsellor for concern of
suicidal ideation and hypomania. 

Per ___ initial ___ evaluation, Ms. ___
reported that she has been "moody" since ___ grade and attempted
suicide at age ___ by cutting her wrists. Her parents admonished
and slapped her for this. For the past week, she has been
ruminating on suicidal thoughts. She called the national suicide
prevention hotline one week ago. She has had recent 
interpersonal
stressors - when she asked her roommate how other people see 
her,
her roomate told her that she was seen as "mean and rude and
negative." She reported she "doesn't see much worth
in me being around" and is "fascinated with the thought of going
to sleep and not waking up." 

Collateral from therapist, ___ (___) obtained by
___: 
- Has been seeing pt ___ for past 2 months 
- Previous routine screening suicide was ___ today ___ 
- Reported to counsellor that she had recently done internet
research on how family/siblings cope with suicide 
- No plan, yet but thinking about pills. Has not researched. 

Upon presentation to the unit, Ms. ___ reports that for the
past week she has been severely depressed. Stressors include
doing badly in school. Her GPA last year was 2.8 and this year
she is failing organic chemistry. She is in despair because her
parents have spent a lot of money to send her abroad to study 
and
she does not want to fail them. She also feels very lonely here
and feels she has not made any friends. Her family is generally
supportive but she feels acutely that they are very far away. 
She
no longer feels suicidal, because her roommate came to visit her
while she was in the ___ and told her that if she died many 
people
would miss her and that she could use her family as her own
family away from home. She endorses poor sleep, decreased 
energy,
decreased concentration, and anhedonia. The patient was 
comforted
by these words and now says she has absolutely no desire to harm
herself but does feel that she needs treatment for her
depression. 

She is also wondering if she is hypomanic, because her school
psychologist brought this up. She reports that she occasionally
has 2 or 3 day periods where her mood improves but not to
euphoria, and her energy improves. However, she never has racing
thoughts, grandiosity, imuplsivity or takes on many projects.

 
Past Medical History:
None
 
Social History:
Pt. was born and raised in ___, where her parents and
___ y/o sister still reside.  When asked about abuse, pt. denied
and explained that in her culture when children disobey, parents
hit them.  She goes on  to explain how grateful she is to her
parents who sacrificed so much to send her to school here.
Pt. currently lives with a roommate in an apartment near school.
She reports having no close friends and she feels disconnected 
to
others and misunderstood.  She has no one to talk to about her
feelings.

* Alcohol: denies
* Cocaine, crack, amphetamines: denies
* Opiates: denies
* Benzodiazepines, marijuana, LSD, PCP: denies
* Tobacco: denies
* Caffeine: denies

* Arrests: denies
* Convictions and jail terms: denies
* Current status (pending charges, probation, parole): denies

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
* Negative for mood or personality disorders.
* Negative for substance use or dependence.
* Negative for suicide attempts or completions.

 
Physical Exam:
VS: T: 98.2 P: 72  BP: 117/80  RR: 16  SaO2: 100% (RA)
* General: Well-nourished, well-developed, in no apparent
distress. Appears stated age. Good hygiene, appropriately 
dressed
in hospital gown.
* HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
* Neck: Supple, trachea midline. No adenopathy or thyromegaly.
* Back: No significant deformity, no focal tenderness.
* Lungs: Clear to auscultation; no crackles or wheezes.
* CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal
pulses.
* Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
* Extremities: No clubbing, cyanosis, or edema.
* Skin: Warm and dry, no rashes, scars, or lesions.

Neurological:
  *Cranial Nerves-
       I: Not tested.
       II: Pupils equally round and reactive to light
bilaterally. Visual fields are full to confrontation.
      III, IV, VI: Extraocular movements intact bilaterally
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal
movements, no tremors. Strength full power ___ throughout. No
gross focal motor or sensory deficits, normal gait.
  *Coordination- 
Normal on finger-nose-finger, rapid alternating movements, heel
to shin.
  *Deep tendon reflexes- 2+ and symmetrical, toes downgoing.
  *Sensation- intact to light touch, position sense intact.
  *Gait- steady, no truncal ataxia, normal stance and posture.

NEUROPSYCHIATRIC EXAMINATION:
* Appearance: no apparent distress, appears stated age, good
hygiene, appropriately dressed
* Behavior: calm, cooperative, initially withdrawn and irritable
but became more engaged as interview progressed, poor eye
contact, orients to interviewer, no abnormal posturing, no
psychomotor agitation or retardation
* Orientation: oriented to ___ as well as person, 
place,
and situation
* Mood: "bored"
* Affect: dysthymic, full range, normal intensity, appropriate 
to
situation, congruent with mood
* Thought Process: linear, coherent, goal-oriented, no loose
associations
* Thought Content: denies SI/HI/AH/VH, delusions and paranoia
absent, does not appear to be responding to internal stimuli
* Impulse Control: fair
* Judgment: fair
* Insight: fair
* Speech: fluent, normal rate, tone, volume, and prosody, no
paraphasic errors

COGNITION:
* Memory: ___ registration, ___ recall at 5 min; remote intact
* Concentration: good
* Abstraction: apple/orange = "fruit"
* Proverb: correctly interprets "The apple doesn't fall far from
the tree"
* Calculation: $1.75 = "7 quarters"
* Fund of knowledge: able to name ___ play by ___
* Attention span: able to list MOYB without error
* Language: appropriate to conversation

 
Pertinent Results:
___ 02:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 02:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:00PM URINE  GR HOLD-HOLD
___ 02:00PM URINE  UCG-NEGATIVE
___ 02:00PM URINE  HOURS-RANDOM
___ 02:00PM URINE  HOURS-RANDOM
___ 02:40PM   PLT COUNT-277
___ 02:40PM   NEUTS-49.4 ___ MONOS-6.5 EOS-3.6 
BASOS-1.0 IM ___ AbsNeut-2.51 AbsLymp-1.98 AbsMono-0.33 
AbsEos-0.18 AbsBaso-0.05
___ 02:40PM   WBC-5.1 RBC-4.27 HGB-12.3 HCT-38.9 MCV-91 
MCH-28.8 MCHC-31.6* RDW-12.6 RDWSD-41.2
___ 02:40PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:40PM   estGFR-Using this
___ 02:40PM   GLUCOSE-85 UREA N-14 CREAT-0.7 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-25 ANION GAP-14
 
Brief Hospital Course:
SAFETY: Pt was placed on Q15 min checks upon admission to the 
unit and remained on this throughout her stay with no safety 
concerns or issues. She was placed on monitored sharps 
throughout her stay with no safety issues. 

LEGAL: ___
PSYCHIATRIC: 
#(?)MDD, (?)Bipolar II - Ms. ___ was admitted to the 
inpatient unit by referral from her college psychologist for 
suicidal ideation. Once on the unit, pt denied any further 
suicidal ideation, but was able to discuss her ongoing 
difficulties with depression and anxiety. She endorsed many 
symptoms of MDD including poor sleep, decreased energy, 
decreased concentration, and anhedonia. The biggest contributors 
to pt's depression include stressors from school, difficulties 
fitting in socially with her peers, and challenges that she 
faces being separated from her family (they reside in ___ 
and she has no family close by in the ___). During Ms. ___ 
admission, we attempted to tease out whether her depression is 
unipolar or if there is an element of mania vs. hypomania. She 
did endorse some symptoms of hypomania, including decreased need 
for sleep, pressured speech, and elevated mood, although these 
features were inconsistently described during her 
hospitalization. It was unclear whether her 'up' and 'down' 
moods were due to possible bipolar II, or whether they were a 
result of behavioral dysregulation with a question of possible 
axis II diagnosis. During her stay, Ms. ___ was started on 
Lamictal 25 mg on ___, to provide long term prevention of 
depressive episodes and to address any possible element of mood 
stabilization that was needed. The following day, pt reported 
feeling "dull and slowed" for a few hours, but then feeling a 
large relief of her anxiety. Her dose was decreased to 12.5 mg 
on the night of ___. She was continued on this dose for 3 
days with no side effects. Ms. ___ reported feeling calmer, 
with less anxiety, and "like a better version of herself." Her 
dose was increased to 25 mg nightly on the night of ___, 
with no reported side effects on the day of discharge, ___. 
She should continue 25 mg nightly for one week and then increase 
to 50 mg nightly for one week. Depending on how she tolerates 
this, her dose should be increased appropriately. On day of 
discharge, Ms. ___ mood is "good" and she is looking 
forward to returning to school. MSE is significant for a 
brightened affect and good insight into her mental illness. At 
this time, she is safe to return back to school. 

MEDICAL:
#Hypothyroidism - Routine labs done in the ___ showed a TSH of 
22. A free T4 level was drawn which showed a low value of 4.0. 
Pt was started on levothyroxine 50mcg daily on ___ which 
she tolerated well. Her dose was increased to 75 mcg daily on 
___, and she will be discharged on this dose. She has been 
instructed to take the medication in the morning ___ min 
before breakfast with water. She should follow-up with her PCP 
to monitor her thyroid levels as appropriate. 

PSYCHOSOCIAL:
# Groups/Milieu: Ms. ___ actively participated in groups 
during her admission. She reports that her favorite group to 
attend was the AA meeting, as she felt inspired by the other 
patient's stories. She was visible and active in the milieu 
during her stay, often seen playing board games and conversing 
with other patients on the unit. 

# Collateral Contacts: Collateral from pt's psychologist at ___ 
___, ___ reports that she first met 
patient on ___. At this
time, pt was sad, tearful, slow, fatigued, with very negative 
content of speech. She reported feeling anxious, irritable. She 
scored herself as 4 out of 4 on all symptoms of depression. She 
endorsed SI with no plan. She next saw the patient on ___, 
where she reported feeling a bit less depressed, but still sad, 
lonely, missing her family as they are out of the country. She 
next saw Ms. ___ on ___ where she reportedly seemed very 
bright, downplaying her past symptoms of depression. She scored 
herself as 0 or 1 out of 4 on all symptoms of depression. She
denied any SI. She endorsed an increased appetite. On ___ 
she denied feeling depressed or irritable. She discussed her 
social anxiety, having difficulties with her friends and with 
forming relationships in general. That weekend, she called the
emergency on-call service at the ___'s mental health office - 
denied SI and said that she was having a lot of social anxiety 
(described particular difficulties with friends). Over the 
course of the next couple of days, she dropped into the office 
twice in 3 days for "crisis", but when spoken to, denied SI. Her 
speech was reportedly rapid, pressured, and would discuss her 
difficulties fitting in with her peers. On ___ she came 
into the office with a "huge smile", speech was tangential and 
she was "all over the place". Although she was smiling, she was 
speaking of increased thoughts of suicide and symptoms of 
depression. She discussed the idea of possibly using pills to 
overdose, and mentioned researching methods of suicide on the 
internet. She also mentioned thinking that she had narcissistic 
personality disorder, and on questioning, endorsed grandiosity. 
She reported
not sleeping (at times) for up to two nights while she stayed up 
doing school work. She made several comments about suicide, and 
about not feeling safe. She said there was a "50/50" chance 
she'd try to hurt herself that day. At this time, ___ decided 
to send Ms. ___ to the ___ for further workup and possible 
psychiatric admission. ___ believes that Ms. ___ change in 
behavior first noted on ___ have been the beginning of 
development of a possible manic/hypomanic episode. 

# Family Involvement: Ms. ___ remained in contact with her 
mother via telephone and ___ during her admission as her 
family resides in ___. Ms. ___ requested to have a 
___ translator present to discuss her mental health with 
the health care team and her parents. Unfortunately, we were 
unable to make this happen before her discharge. Ms. ___ 
would like to involve an interpreter in discussing her health 
care with her therapist in the future. 

INFORMED CONSENT:
We discussed the indications for, intended benefits of, and 
possible side effects and risks of medications above, and risks 
and benefits of possible alternatives. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and we answered the patient's 
questions. The patient appeared able to understand and consented 
to begin and continue with the medications.

RISK ASSESSMENT:
# Chronic/Static Risk Factors: Patient's age, history of 
previous suicide attempt/self harm, family history of mental 
illness (depression in her mother)

# Modifiable Risk Factors: Lack of social supports, increased 
stress from rigorous academic environment

# Protective Factors: Help-seeking behavior, willingness to 
accept treatment, future-oriented behavior, lack of access to 
guns, lack of substance abuse. 

PROGNOSIS: Favorable. Ms. ___ is very open to understanding 
her mental illness further and to accepting treatment. She is 
very future-oriented and looking forward to becoming a 
___. Although she does experience a lot of stress from 
school, particularly with one class (organic chemistry), she has 
a plan in place to get a 1-on-1 tutor and receive extra help as 
she needs it. She is separated from her family, as they reside 
in ___, but she is hopeful that she will be able to discuss 
her mental illness with her parents and make progress towards 
strengthening their relationship.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. LaMOTrigine 25 mg PO QHS 
RX *lamotrigine [Lamictal] 25 mg 1 tablet(s) by mouth NIGHTLY 
Disp #*21 Tablet Refills:*0
2. Levothyroxine Sodium 75 mcg PO DAILY 
RX *levothyroxine 75 mcg 1 tablet(s) by mouth DAILY Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar II

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Psychiatry Discharge Instructions

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___